US04808572
(a) 1-(2-nonylphenyl)-1-trans-hexen-6-ol
2.8 g of lithiumaluminium hydride are added in portions, over a period of approximately one hour, to a solution, stirred under a nitrogen atmosphere, of 34.4 g of 6-(2-nonylphenyl)-5-hexenoic acid methyl ester (cf. EP-OL 0 123 543) in 300 ml of absolute tetrahydrofuran. After a further 10 minutes 30 ml of ethyl acetate and then 30 ml of water are added dropwise. The reaction mixture is acidified by the addition of 1N hydrochloric acid and extracted repeatedly with ethyl acetate. After the combined organic phases have been dried and concentrated by evaporation, the crude product that remains is purified by chromatography on silica gel with dichloromethane to yield the title compound in the form of a yellowish oil.

reactant | lithiumaluminium hydride | 2.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-(2-nonylphenyl)-5-hexenoic acid methyl ester | 34.4 g | COC(CCCC=CC1=C(C=CC=C1)CCCCCCCCC)=O | C22H34O2
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 1-(2-nonylphenyl)-1-trans-hexen-6-ol | C(CCCCCCCC)C1=C(C=CC=C1)\C=C\CCCCO | C21H34O
